US06399597B1
Step 1: N,N-diallyloxycarbonyl-2-methyl-2-thiopseudourea
2-methyl-2-thiopseudourea sulfate (2 g) was dissolved in sodium bicarbonate (10% soln., 20 ml. To this was added methylene chloride (20 ml) followed by sodium hydroxide solution (5N, 2.8 ml) and allylchloroformate (4.5 ml) added dropwise over 5 min. The reaction was allowed to stir at room temperature for 3 hr., diluted with methylene chloride and the organic phase was separated. The aqueous phase was extracted once with methylene chloride and the combined organic phase was washed with water, satd. NaCl, and dried over MgSO4 and evaporated to give the product (3.7 g)

reactant | 2-methyl-2-thiopseudourea sulfate | 2 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium hydroxide | 5N, 2.8 ml | [OH-].[Na+]
reactant | allylchloroformate | 4.5 ml | C(C=C)OC(=O)Cl | C4H5ClO2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N,N-diallyloxycarbonyl-2-methyl-2-thiopseudourea | 3.7 g | C(C=C)OC(=O)N(C(SC)=N)C(=O)OCC=C | C10H14N2O4S
